US06562807B2
4-{[tert-Butoxycarbonyl-(4-cyclohexylphenyl)amino]methyl}benzoic acid was dissolved in DMF (10 mL) and HOBt (0.40 g, 2.93 mmol) and EDAC (0.52 g, 2.73 mmol) were added. The reaction mixture was stirred for 45 min. Then a solution of (R)-3-amino-2-hydroxypropionic acid methyl ester in DMF (8 mL) and diisopropylethylamine (0.46 mL) were added. The mixture was stirred overnight. The reaction mixture was diluted with water (40 mL) and extracted with ethyl acetate (75 mL). The aqueous phase was extracted with ethyl acetate (30 mL). The combined organic phases were washed with hydrochloric acid (0.2 N, 3×30 mL), water: saturated sodium chloride (3×30 mL), dried with magnesium sulphate and concentrated in vacua. The residue was purified by column chromatography on silica gel (100 g) using mixtures of ethyl acetate and n-heptane (1 L (1:1) and 0.5 L (7:3)) as eluents to afford 0.77 g (R)-3-(4-{[tert-butoxycarbonyl-(4-cyclohexylphenyl)amino]methyl}benzoylamino)-2-hydroxypropionic acid methyl ester.

reactant | 4-{[tert-Butoxycarbonyl-(4-cyclohexylphenyl)amino]methyl}benzoic acid | C(C)(C)(C)OC(=O)N(C1=CC=C(C=C1)C1CCCCC1)CC1=CC=C(C(=O)O)C=C1 | C25H31NO4
reactant | HOBt | 2.93 mmol, 0.40 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 2.73 mmol, 0.52 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | (R)-3-amino-2-hydroxypropionic acid methyl ester | COC([C@@H](CN)O)=O | C4H9NO3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | diisopropylethylamine | 0.46 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | water | 40 mL | O | H2O
product | (R)-3-(4-{[tert-butoxycarbonyl-(4-cyclohexylphenyl)amino]methyl}benzoylamino)-2-hydroxypropionic acid methyl ester | 0.77 g | COC([C@@H](CNC(C1=CC=C(C=C1)CN(C1=CC=C(C=C1)C1CCCCC1)C(=O)OC(C)(C)C)=O)O)=O | C29H38N2O6
